US07645791B2
5-tert-Butyl-4-hydroxy-2-methyl-biphenyl-3-carboxylic acid (2-chloro-4-nitro-phenyl)amide
To a solution of 3-Bromo-5-tert-butyl-N-(2-chloro-4-nitro-phenyl)-6-hydroxy-2-methyl-benzamide (0.18 g, 0.4 mmole) in dioxane (5 ml) under nitrogen phenylboronic acid (50.0 mg, 0.4 mmole), tetrakis(triphenylphosphine)palladium(0) (10 mg, 0.009 mmole) and sodium carbonate (1.41 ml, 2 M solution in water) were added. The reaction mixture was heated at 100° C. for 6 hours. The reaction mixture was evaporated, diluted with ethyl acetate and the organic phase was washed with citric acid solution (10%). The organic phase was dried over sodium sulphate and evaporated. The crude compound was purified by column chromatography.

reactant | 3-Bromo-5-tert-butyl-N-(2-chloro-4-nitro-phenyl)-6-hydroxy-2-methyl-benzamide | 0.4 mmole, 0.18 g | BrC=1C(=C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])Cl)C(=C(C1)C(C)(C)C)O)C | C18H18BrClN2O4
reactant | sodium carbonate | 2 M, 1.41 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmole, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-tert-Butyl-4-hydroxy-2-methyl-biphenyl-3-carboxylic acid (2-chloro-4-nitro-phenyl)amide | ClC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)C=1C(=C(C=C(C1O)C(C)(C)C)C1=CC=CC=C1)C | C24H23ClN2O4
